US05834434
HCl-4-amino-3-methylbenzoyl methionine methyl ester
N-BOC-4-amino-3-methylbenzoyl methionine methyl ester (0.99 g, 2.59 mmol) was dissolved in CH2Cl2 (15-20 ml) and precipitated with 3M HCl/Et2O (20.7 ml). 0.83 g (96.6%) of pale orange precipitate was obtained after drying overnight on the vacuum pump. mp 157°-159° C.; 1H NMR (CD3OD) 2.04 (3 H,s), 2.11-2.25 (1 H, m), 2.47 (3 H, s), 2.52-2.68 (3H. m), 3.74 (3 H, s), 4.75-4.80 (1 H, m), 7.48 (1 H, d, J=8.2 Hz), 7.81 (2 H, d, J=8.2 Hz), 7.87 (1 H, S); 13C NMR (CD3 0D) 15.23, 17.28, 31.43, 31.51, 52.91, 53.37, 124.41, 127.85, 131.99, 133.63, 134.14, 135.65, 169.05, 173.84; anal. calc. for C14H2N2 03S, C: 50.52, H: 6.36, N: 8.42; found C: 50.71, H: 6.40, N: 8.34.

reactant | N-BOC-4-amino-3-methylbenzoyl methionine methyl ester | 2.59 mmol, 0.99 g | COC([C@@H](N(C(=O)OC(C)(C)C)C(C1=CC(=C(C=C1)N)C)=O)CCSC)=O | C19H28N2O5S
reactant | CH2Cl2 | 15-20 ml | C(Cl)Cl | CH2Cl2
product | HCl 4-amino-3-methylbenzoyl methionine methyl ester | 0.83 g, 96.6% | Cl.COC([C@@H](NC(C1=CC(=C(C=C1)N)C)=O)CCSC)=O | InChI=1S/C14H20N2O3S.ClH/c1-9-8-10(4-5-11(9)15)13(17)16-12(6-7-20-3)14(18)19-2;/h4-5,8,12H,6-7,15H2,1-3H3,(H,16,17);1H/t12-;/m0./s1
